US08039469B2
Preparation of 1-(4-cyanophenyl)-3-{4-[4-morpholin-4-yl-6-(3-oxa-8-azabicyclo[3.2.1]oct-8-yl)-1,3,5-triazin-2-yl]phenyl}urea
Following the procedure described in example 34, reaction of 4-[4-morpholin-4-yl-6-(3-oxa-8-azabicyclo[3.2.1]oct-8-yl)-1,3,5-triazin-2-yl]aniline (22 mg, 0.06 mmol) (22 mg, 0.06 mmol, triphosgene (18 mg, 0.06 mmol) and 4-aminobezonitrile (21 mg, 0.18 mmol) gave the title compound as off-white solid (14.3 mg, 46% yield). MS (ESI) m/z 513.5.

reactant | 4-[4-morpholin-4-yl-6-(3-oxa-8-azabicyclo[3.2.1]oct-8-yl)-1,3,5-triazin-2-yl]aniline | 0.06 mmol, 22 mg | N1(CCOCC1)C1=NC(=NC(=N1)N1C2COCC1CC2)C2=CC=C(N)C=C2 | C19H24N6O2
reactant | triphosgene | 0.06 mmol, 18 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-aminobezonitrile | 0.18 mmol, 21 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
product | 1-(4-cyanophenyl)-3-{4-[4-morpholin-4-yl-6-(3-oxa-8-azabicyclo[3.2.1]oct-8-yl)-1,3,5-triazin-2-yl]phenyl}urea | 14.3 mg, 46% yield | C(#N)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CCOCC1)N1C2COCC1CC2 | C27H28N8O3
